### PR TITLE
refactor(Archive/FriendshipGraphs): golf everything

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
Also remove the file's `set_option`s and `@[expose]`. Like #43434, no deprecations are added since this is a leaf file in Archive.

### CODE REVIEW

File: Archive/Wiedijk100Theorems/FriendshipGraphs.lean [hunk 1]
```diff
@@ -9,334 +9,139 @@ public import Mathlib.Combinatorics.SimpleGraph.AdjMatrix
...
-def Friendship [Fintype V] : Prop :=
-  ∀ ⦃v w : V⦄, v ≠ w → Fintype.card (G.commonNeighbors v w) = 1
-
-/-- A politician is a vertex that is adjacent to all other vertices.
--/
-def ExistsPolitician : Prop :=
-  ∃ v : V, ∀ w : V, v ≠ w → G.Adj v w
+/-- A friendship graph has exactly one common neighbor for every distinct pair of vertices. -/
+def IsFriendship (G : SimpleGraph V) : Prop :=
+  ∀ ⦃v w⦄, v ≠ w → Fintype.card (G.commonNeighbors v w) = 1
```
Comment (SnirBroshi) [inline Archive/Wiedijk100Theorems/FriendshipGraphs.lean]:
```suggestion
  ∀ ⦃v w⦄, v ≠ w → (G.commonNeighbors v w).ncard = 1
```
the modern equivalent

File: Archive/Wiedijk100Theorems/FriendshipGraphs.lean [hunk 2]
```diff
@@ -9,334 +9,139 @@ public import Mathlib.Combinatorics.SimpleGraph.AdjMatrix
...
-theorem friendship_theorem [Nonempty V] : ExistsPolitician G := by
-  by_contra npG
-  rcases hG.isRegularOf_not_existsPolitician npG with ⟨d, dreg⟩
-  rcases lt_or_ge d 3 with dle2 | dge3
-  · exact npG (hG.existsPolitician_of_degree_le_two dreg (Nat.lt_succ_iff.mp dle2))
-  · exact hG.false_of_three_le_degree dreg dge3
+end IsFriendship
 
-end
+theorem friendship_theorem [Nonempty V] : ∃ v, G.IsUniversal v := by
```
Comment (SnirBroshi) [inline Archive/Wiedijk100Theorems/FriendshipGraphs.lean]: Could you restore the docstring?

Comment (Parcly-Taxel) [reply Archive/Wiedijk100Theorems/FriendshipGraphs.lean]: I feel that the module docstring and that over `card_of_regular` explain everything. The other docstrings are redundant.

File: Archive/Wiedijk100Theorems/FriendshipGraphs.lean (hunk 1 above)
Comment (Parcly-Taxel) [reply Archive/Wiedijk100Theorems/FriendshipGraphs.lean]: Done.

File: Archive/Wiedijk100Theorems/FriendshipGraphs.lean [hunk 3]
```diff
@@ -9,334 +9,142 @@ public import Mathlib.Combinatorics.SimpleGraph.AdjMatrix
...
-
-end
+  all_goals refine ⟨v, fun w nw ↦ ?_⟩
+  iterate 2 exact nw.elim (Fintype.card_le_one_iff.mp (by lia) ..)
+  suffices G.neighborFinset v = univ.erase v by simp [← mem_neighborFinset, this, nw.symm]
+  apply eq_of_subset_of_card_le <;> grind [mem_neighborFinset, card_neighborFinset_eq_degree, hd v]
+
+end IsFriendship
+
+theorem friendship_theorem [Finite V] [Nonempty V] : ∃ v, G.IsUniversal v := by
```
Comment (SnirBroshi) [inline Archive/Wiedijk100Theorems/FriendshipGraphs.lean:144]: Please don't resolve things one-sided. This was not resolved:

Could you restore the docstring?

Comment (Parcly-Taxel) [reply Archive/Wiedijk100Theorems/FriendshipGraphs.lean:144]: Done.
